US07723329B2
Step 3) 1-(3-Chlorobenzyl)-5-(2-chloroethoxymethy)-3-(1-naphthylsulfony)-1H-indazole
[1-(3-Chlorobenzyl)-3-(1-naphthylsulfonyl)-1H-indazol-5-yl]-methanol (0.18 g, 0.4 mmol) and diisopropyl ethyl amine (1 mmol) in methylene chloride were treated at −20° C. with trifluoromethanesulfonic anhydride (0.14 g, 0.5 mmol). After stirring for 30 min an excess of 2-chloroethanol (2 mmol) was added and the mixture stirred for additional 2 hrs at −20° C. and at room temperature for 12 hrs. The reaction mixture was diluted with water, extracted with ethyl acetate and after evaporation of solvent, chromatographed on silica gel using 40% ethyl acetate/hexane as an eluent to afford the target material (0.08 g, 0.16 mmoles).

reactant | [1-(3-Chlorobenzyl)-3-(1-naphthylsulfonyl)-1H-indazol-5-yl]-methanol | 0.4 mmol, 0.18 g | ClC=1C=C(CN2N=C(C3=CC(=CC=C23)CO)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | C25H19ClN2O3S
reactant | diisopropyl ethyl amine | 1 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 0.5 mmol, 0.14 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2-chloroethanol | 2 mmol | ClCCO | C2H5ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-(3-Chlorobenzyl)-5-(2-chloroethoxymethy)-3-(1-naphthylsulfony)-1H-indazole | 0.16 mmoles, 0.08 g | ClC=1C=C(CN2N=C(C3=CC(=CC=C23)COCCCl)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | C27H22Cl2N2O3S
